US05576343
5.17 g of methyl 4-formylbenzoate and 13.97 g of (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride were dissolved in a solvent mixture of 50 ml of tetrahydrofuran and 50 ml of methanol. A 5.02 g of 1,8-diazabicyclo[5.4.0]-7-undecene was added to the thus prepared solution while stirring under ice cooling, followed by stirring at room temperature for 2 hours. By collecting the precipitated crystals through a filter, methyl 4-[2-(5-cyano-2-benzofuranyl)vinyl]benzoate was obtained as a mixture of E and Z forms. The thus obtained crystals were dissolved in a solvent mixture of 300 ml of tetrahydrofuran and 100 ml of ethanol, and the solution was subjected to catalytic hydrogenation under normal pressure for 2 hours in the presence of 2.0 g of palladium oxide.1H2O.barium sulfate. After removing the catalyst by filtration and concentrating the resulting filtrate, the thus obtained residue was purified by subjecting it to silica gel column chromatography using benzene as an elution solvent to obtain 8.1 g of methyl 4-[2-(5-cyano-2-benzofuranyl)ethyl]benzoate in the form of prism crystals.

reactant | methyl 4-formylbenzoate | 5.17 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride | 13.97 g | [Cl-].C(#N)C=1C=CC2=C(C=C(O2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 5.02 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | methyl 4-[2-(5-cyano-2-benzofuranyl)vinyl]benzoate | C(#N)C=1C=CC2=C(C=C(O2)C=CC2=CC=C(C(=O)OC)C=C2)C1 | C19H13NO3
